Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I'm depressed"
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms. ___ is a ___ year old female with no formal psychiatry 
history who presented to the ED with her mother after ingesting 
13 50mg ___ tablets last night.  About 20 minutes after 
taking the pills, her mother heard her vomiting and saw pills in 
the toilet.

The patient reports that she has felt depressed for as long as 
she can remember.  The last time she remembers feeling not 
depressed was about ___ years ago.  She has never really told 
anyone and has never sought help in the past.  She states she 
has felt like hurting herself for several months, but never 
really developed a plan or had intent.  Pt denies any 
significant triggers or recent stressors that led to her 
overdose.  Currently she is not feeling suicidal and feeling 
regretful for what she did.  

Pt denies any manic or psychotic symptoms.  Denies any previous 
suicide attempts.  Denies any history of abuse. She has never 
been hospitalized for psychiatric reasons and does not have any 
current outpatient providers.  She did mention seeing a 
therapist when she was much younger, but does not elaborate as 
to why. 

Spoke with the patient's mother, ___ ___, 
with the patients permission. Mother reports ___ has been 
depressed for many years.  She has tried to get her help, but 
the
patient has always refused.  She states last night they got into 
a small fight over what was being served for dinner and soon 
after heard vomiting in the bathroom.  Mom reports the patient
has been out of college for ___ years and has not had a job 
which is a big conflict in the home.  She also reports that the 
patient has issues with her current weight which she believes is 
contributing to her depression as well. She also reports that 
___ has been threatening to kill herself for about a year, 
but this was the first attempt. AT this point, the mother is not 
sure what to do.  She has refused her help in the past and is 
concerned for her daughter. Mom reports the patient saw a 
therapist at the age of ___ because she was very shy in school and
would not talk to anyone. 
 
Past Medical History:
-Congenital SVT s/p ablation (last SVT was ___ years ago, ice 
helps)
-HTN (takes metoprolol 12.5 mg/day)
-Gallstones s/p cholecystectomy (___)
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Mother with depression on SSRI
-Maternal uncle with depression
-___ Grandfather with depression
-Both maternal and paternal grandparents have issues with 
alcohol use. 
-No history of SA in family. 

Medical History   
Mother  ___  MIGRAINE HEADACHES, DEPRESSION                       
       
Father , ___  DIABETES MELLITUS, CORONARY ARTERY DISEASE          
                       
___       ___    ___  CORONARY ARTERY                         
                        DISEASE                                 

 
Physical Exam:
Physical Examination:
VS:  BP: 136/81 HR: 101 temp: 98.2 resp: 17 O2 sat: 100 height:
5'6"  weight: 234 lbs 
General- overweight young woman dressed in hospital gown
Skin- Eczema patch on left hand 
Lungs- CTAB 
CV- RRR, no m/r/g
Abdomen: Hypoactive bowel sounds present, NTTP
Extremities- No notable swelling in hands/legs/feet, no cyanosis 

Neuro- 
CN: 
     pupils symmetry and responsiveness to light: WNL
     EOMI
     facial sensation to light touch in all 3 divisions: WNL 
     facial symmetry on eye closure and smile: WNL
     hearing bilaterally to rubbing fingers: WNL
     phonation: WNL
     head turning and shoulder shrug: WNL
     tongue: no deviation 
 
Motor:
Left Arm/Right Arm strength grossly intact       
Left Leg/Right Leg strength grossly intact 
*Deep tendon Reflexes:
       Patellar reflex 2+ bilaterally 
Sensation: Intact 
Gait/Romberg: Walks without difficulty 

Neuropsychiatric Examination:
  *Appearance: light brown skinned young woman in hospital gown,
tearful
  Behavior: tearful, quiet at first but later in interview
cooperative and forthcoming with information 
  *Mood and Affect: "I've felt like this for a while", congruent
  *Thought process: Linear, no LOA
  *Thought Content: Denies auditory/visual hallucinations; 
denies
HI; last SI was last night, has not had SI thoughts since then 
  *Judgment and Insight: Impaired/Impaired  
  Cognition:
    *Attention: followers interviewer, asks to read forms she is
singing 
    *Orientation: Hospital, Self, Date, Day of Week
    *Memory: intact to recent and remote events, ___ 
registration
and recall 
    *Fund of knowledge: Average
    Calculations: Correctly calculates $1.75 as 7 quarters 
    Abstraction: train and car = modes of transportation
    *Speech: normal tone, normal rate
    *Language: ___ no paraphrasic errors
 
Pertinent Results:
___ 10:31PM   GLUCOSE-98 UREA N-13 CREAT-0.8 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 10:31PM   ALT(SGPT)-16 AST(SGOT)-21 ALK PHOS-81 TOT 
BILI-<0.2

___ 10:31PM   LIPASE-44
___ 10:31PM   ALBUMIN-4.7
___ 10:31PM   TSH-2.1
___ 10:31PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:31PM URINE  HOURS-RANDOM
___ 10:31PM URINE  UCG-NEGATIVE
___ 10:31PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:31PM   WBC-7.2 RBC-4.39 HGB-12.8 HCT-38.7 MCV-88 
MCH-29.2 MCHC-33.1 RDW-13.4 RDWSD-43.6
___ 10:31PM   NEUTS-61.6 ___ MONOS-15.3* EOS-1.0 
BASOS-0.6 IM ___ AbsNeut-4.45 AbsLymp-1.53 AbsMono-1.10* 
AbsEos-0.07 AbsBaso-0.04
___ 10:31PM   PLT COUNT-341
___ 10:31PM   ___ PTT-30.6 ___
___ 10:31PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 10:31PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:31PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 10:31PM URINE  AMORPH-OCC
___ 10:31PM URINE  MUCOUS-RARE
___ 10:27PM   LACTATE-1.___rief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission 
with green sharps.  She remained here on that level of 
observation throughout.  She was unit-restricted.  There were no 
acute safety issues during this hospitalization.

LEGAL: ___
PSYCHIATRIC:
#Dysthymia:  On presentation, the patient endorsed depressed 
mood more days than not for at least ___ years with insomnia, 
increased appetite, lack of direction and purpose, significant 
social stressors, and low self esteem. Differential included
anxiety disorder, major depressive disorder, and though no 
history of this in family, bipolar disorder. However, we saw no 
evidence for other diagnoses and patient displayed no symptoms 
of mania.  On admission patient was cooperative and seen 
immediately.  She was noted to attend almost all groups. Patient 
was offered Celexa to help low mood and decided after 
consideration for side effects that she would try the 
medication.  Patient's QTc was ok at 426 to try Celexa.  Patient 
reported mild nausea and heartburn the day after taking her 
first dose and well as feeling tired around midday (during 
family meeting). She reported a sensation of warmth in her 
abdomen and chest when taking her Celexa and metoprolol together 
and was concerned that the two may have been interacting. 
Subsequently, Ms. ___ now take Celexa in the morning 
and metoprolol in the evening. She is interested in continuing 
the medication and monitoring the side effects.

GENERAL MEDICAL CONDITIONS:
#Congential SVT s/p Ablation, last episode SVT > ___ years ago.  
Patient reported no episodes of chest pain, palpitations, 
trouble breathing.  Patient was monitored and vitals were taken 
daily.  

#HYPERTENSION: The patient's blood pressure was monitored daily 
and she was continued on her home metroprolol.
 
#GERD: The patient had not been taking her home ranitidine 
though did endorse heartburn on the morning of ___.

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Pt was encouraged to participate in unit’s groups/milieu/therapy 

opportunities. She was an active participant in many of the 
groups. Use of coping skills and mindfulness/relaxation methods 
were encouraged. Therapy addressed family/social issues.  
Patient and family were involved in family meeting on morning of 
___ which focused on communicating between mother and 
daughter, coping strategies for depressed mood, family dynamics, 
and the relationship between Ms. ___ and ___ mother as 
well as psychoeducation and discharge planning.
 
#) COLLATERAL CONTACTS/FAMILY CONTACTS:
The patient's mother was contacted and her concerns were 
addressed with family meeting.  
 
#) INTERVENTIONS:
- Medications: Patient was started on 10 mg Celexa.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.  Patient participated and engaged in groups.  
- Coordination of aftercare: PCP appointment was made for ___ 
at 9:45AM with Dr. ___ at ___. Ms. 
___ begin a partial hospital program at ___ 
___ on ___ at 8:30 AM. Her 
outpatient psychiatrist/therapist is Ms. ___ and 
her follow-up appointment is scheduled for ___ at 4 ___ at ___. 
 
INFORMED CONSENT:  The team discussed the indications for,  
intended benefits of, and possible side effects and risks of  
starting this medication, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
RISK ASSESSMENT: 
#) Chronic/Static Risk Factors:
- Age 
- Single status
 
#) Modifiable Risk Factors:
- Dysthymia/Depression: The patient was trialed on Celexa and 
had family meeting to address social stressors.  She 
demonstrated significant improvement of her symptoms with no 
reported suicidal ideation. She was encouraged to attend groups 
on the unit.  Patient was also set up with outpatient 
psychiatry/therapy provider at ___ - 
___.
 
#) Protective Factors:
- Help-seeking behavior
- Lack of past suicide attempts
- Future-oriented
- Motivated to continue treatment
- No passive SI reported 
- No sense of hopelessness
- No history of substance use
- Strong family support
 
PROGNOSIS:
Good with outpatient follow up and continued work on family 
relationships, future goals, and self affirmation.  Ms. 
___ presented with persistent depressive 
disorder/dysthymia that caused significant psychosocial 
interference, personal distress, and led to a suicide attempt.  
While at ___, she started individual and group psychotherapy 
and 10mg of Celexa daily. She no longer reports suicidal 
ideation and expresses interest in seeing an outpatient 
therapist and psychiatrist and working with her mother on their 
relationship.  She was involved in groups during her 
hospitalization and was open using coping strategies.  In 
particular, she enjoyed writing an essay in one of the groups.  
My prognosis for Ms. ___ is that she has the potential to 
do very well as an outpatient.  She is  motivated to continue to 
seek further treatment because she feels close to her family 
members and would not want to hurt them by hurting 
herself/ending her life.  She has strong relationships with her 
grandmother, who she visits and helps with groceries, as well as 
her mother and father.  There are still some concerns that she 
is not focusing on herself or her own activities as primary 
motivators as well.  We discussed goal-oriented thinking and she 
laid out a few goals for the next few weeks to months, including 
getting out of the house more and losing weight.  While she does 
not mention any long-term goals for the next several years, this 
is an improvement from her initial presentation.  Additionally, 
this will be further addressed by meeting with outpatient 
psychiatrist and therapist.  She has been taught about the 
warning signs and understands that there are many resources, 
including the emergency department that she can follow-up with.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO WITH OR AFTER DINNER  
2. Ranitidine 150 mg PO BID GERD  NOT TAKING 

 
Discharge Medications:
Metoprolol Tartrate 12.5 mg PO WITH OR AFTER DINNER 
Celexa 10 mg DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysthymia or Persistent Depressive Disorder 
 
Discharge Condition:
Mental Status: Clear and coherent. 
 *Appearance: young overweight "mixed race" woman, hair tied
back, wearing own clothes - Old Navy blue fleece jacket,
jeggings, t-shirt
  Behavior:
  *Mood and Affect: "Ok", congruent 
  *Thought process: Linear, no LOA
  *Thought Content: Denies SI since ___ night, Denies HI,
Denies AH/VH
  *Judgment and Insight: fair/fair 
  Cognition:
    *Attention: follows interviewer, serial 7's to 72 correctly
     Calculation: $1.75 = 7 quarters correctly 
     Abstractions: Chair and Table are furniture, Zucchini and
Cucumber are vegetables  
 *Orientation: oriented to hospital, self, date, president
    *Memory: intact to remote and recent events, 3 word
registration and five minute recall intact  
    *Fund of knowledge: Average
    *Speech: normal tone, rate, prosody, no pressured speech
    *Language: ___ with no paraphrasic errors 

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized at ___ for depressed mood following a 
suicide attempt.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___